US07872028B2
To a stirred solution of tert-butyl 3-(hydroxy(phenyl)methyl)pyrrolidine-1-carboxylate (205 mg, 0.74 mmol) and 4-methoxybutyl iodide (750 mg, 3.5 mmol) in dry THF (5 mL) under N2 was added 60& NaH in oil (0.14 g, 3.5 mmol). H2 evolution occurred. The mixture was heated at reflux for 8 h. The mixture was cooled, diluted with ether (90 mL), and washed with water (25 mL) and brine (25 mL), and dried over MgSO4. Removal of the solvent left an oil which was purified by flash chromatography on a 12-g silica cartridge eluted with a 0 to 100% EtOAc in hexanes gradient to afford tert-butyl 3-((4-methoxybutoxy)(phenyl)methyl)pyrrolidine-1-carboxylate (47 mg, 17%) as an oil.

reactant | tert-butyl 3-(hydroxy(phenyl)methyl)pyrrolidine-1-carboxylate | 0.74 mmol, 205 mg | OC(C1CN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C16H23NO3
reactant | 4-methoxybutyl iodide | 3.5 mmol, 750 mg | COCCCCI | C5H11IO
reactant | NaH | [H-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ether | 90 mL | CCOCC | C4H10O
product | tert-butyl 3-((4-methoxybutoxy)(phenyl)methyl)pyrrolidine-1-carboxylate | 47 mg, 17% | COCCCCOC(C1CN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C21H33NO4
